US05298503
1-iodo-3-(p-fluorophenylcarbonyl)propane
20 g of 1-chloro-3-(p-fluorophenylcarbonyl)propane dissolved in 100 cm3 of methyl ethyl ketone are refluxed for 24 hours in the presence of 18.5 g of sodium iodide. After treatment, 28 g of the desired compound are isolated.

reactant | 1-chloro-3-(p-fluorophenylcarbonyl)propane | 20 g | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | sodium iodide | 18.5 g | [I-].[Na+]
solvent | methyl ethyl ketone | 100 cm3 | C(C)C(=O)C | C4H8O
product | 1-iodo-3-(p-fluorophenylcarbonyl)propane | 28 g | ICCCC(=O)C1=CC=C(C=C1)F | C10H10FIO
